data/polar.json
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[cH:1]1[cH:11][cH:15][c:10]([B-:2]2([CH2:13][CH:9]=[CH2:21])[O:22][C:19]([CH3:5])([CH3:6])[C:20]([CH3:7])([CH3:8])[O:23]2)[cH:16][cH:12]1.[cH:3]1[cH:4][cH:18][cH:25][cH+:14][cH:24][cH:17]1>>[cH:1]1[cH:11][cH:15][c:10]([B-:2]2([CH2:13][CH+:9][CH2:21][CH:14]3[CH:24]=[CH:17][CH:3]=[CH:4][CH:18]=[CH:25]3)[O:22][C:19]([CH3:5])([CH3:6])[C:20]([CH3:7])([CH3:8])[O:23]2)[cH:16][cH:12]1", "epd": [["Pi-/Sigma+", [21, 9], [21, 14]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[cH:1]1[cH:19][cH:26][c:38]([N:21]2[C:4](=[C:23]([c:2]3[cH:13][cH:39][cH:9][cH:40][cH:14]3)[O:10][CH3:41])[N:11]([c:47]3[cH:17][cH:31][cH:25][cH:32][cH:18]3)[N:44]=[C:30]2[c:24]2[cH:45][cH:15][cH:37][cH:16][cH:46]2)[cH:27][cH:20]1.[n+:3]1([CH3:22])[c:5]2[cH:28][cH:35][cH:33][cH:7][c:42]2[cH:12][c:43]2[c:6]1[cH:29][cH:36][cH:34][cH:8]2>>[cH:1]1[cH:19][cH:26][c:38](-[n:21]2[c:4]([C:23]([c:2]3[cH:13][cH:39][cH:9][cH:40][cH:14]3)([O:10][CH3:41])[CH:12]3[c:42]4[c:5]([cH:28][cH:35][cH:33][cH:7]4)[N:3]([CH3:22])[c:6]4[cH:29][cH:36][cH:34][cH:8][c:43]43)[n+:11](-[c:47]3[cH:17][cH:31][cH:25][cH:32][cH:18]3)[n:44][c:30]2-[c:24]2[cH:45][cH:15][cH:37][cH:16][cH:46]2)[cH:27][cH:20]1", "epd": [["LP-/Pi+", [11], [4, 11]], ["Pi-/Sigma+", [23, 4], [23, 12]], ["Pi-/Pi+", [12, 42], [42, 5]], ["Pi-/LP+", [5, 3], [3]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[c:1]1([B-:19]2([c:22]3[cH:15][c:8]([C:3]([F:26])([F:27])[F:28])[cH:11][c:9]([C:4]([F:29])([F:30])[F:31])[cH:16]3)[O:24][CH2:32][C:17]([CH3:13])([CH3:14])[CH2:33][O:25]2)[s:10][c:7]([CH3:23])[cH:2][cH:12]1.[cH:5]1[cH:6][cH:21][cH:35][cH+:18][cH:34][cH:20]1>>[C:3]([c:8]1[cH:11][c:9]([C:4]([F:29])([F:30])[F:31])[cH:16][c:22]([B-:19]2=[O+:24][CH2:32][C:17]([CH3:13])([CH3:14])[CH2:33][O:25]2)[cH:15]1)([F:26])([F:27])[F:28].[c:1]1([CH:18]2[CH:34]=[CH:20][CH:5]=[CH:6][CH:21]=[CH:35]2)[s:10][c:7]([CH3:23])[cH:2][cH:12]1", "epd": [["LP-/Pi+", [24], [19, 24]], ["Sigma-/Sigma+", [1, 19], [1, 18]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:3]1(=[CH2:10])[N:19]([CH3:5])[c:17]2[cH:8][cH:12][cH:13][cH:9][c:16]2[N:20]1[CH3:6].[cH:1]1[cH:2][cH:22][cH:7][c:11]2[c:4]1[N+:26]([CH3:15])=[CH:21][C:18]2=[CH:14][c:25]1[cH:23][cH:27][cH:29][cH:28][cH:24]1>>[cH:1]1[cH:2][cH:22][cH:7][c:11]2[c:4]1[n:26]([CH3:15])[cH:21][c:18]2[CH:14]([CH2:10][c:3]1[n+:19]([CH3:5])[c:17]2[cH:8][cH:12][cH:13][cH:9][c:16]2[n:20]1[CH3:6])[c:25]1[cH:23][cH:27][cH:29][cH:28][cH:24]1", "epd": [["LP-/Pi+", [19], [3, 19]], ["Pi-/Sigma+", [10, 3], [10, 14]], ["Pi-/Pi+", [14, 18], [18, 21]], ["Pi-/LP+", [21, 26], [26]]]}
{"reaction_name": "Thia-Michael addition", "rsmi": "[CH3:2][CH2:8][O:6][C:19]([CH:3]=[C:9]([CH3:20])[N:26]=[N:13][C:4](=[O:14])[NH:16][c:21]1[cH:23][cH:11][cH:22][cH:12][cH:24]1)=[O:15].[S:1]([c:5]1[cH:27][cH:17][cH:10][cH:18][cH:28]1)([O-:7])=[O:25]>>[S+:1]([CH:3]([C:9]([CH3:20])=[N:26][N:13]=[C:4]([O-:14])[NH:16][c:21]1[cH:23][cH:11][cH:22][cH:12][cH:24]1)[C:19]([O:6][CH2:8][CH3:2])=[O:15])([c:5]1[cH:27][cH:17][cH:10][cH:18][cH:28]1)([O-:7])=[O:25]", "epd": [["LP-/Sigma+", [1], [1, 3]], ["Pi-/Pi+", [3, 9], [9, 26]], ["Pi-/Pi+", [26, 13], [13, 4]], ["Pi-/LP+", [4, 14], [14]]]}
{"reaction_name": "Perkow rearrangement", "rsmi": "[CH3:1][C:5]([CH2:6][Cl:7])=[O:11].[CH3:2][O:8][P:12]([O:9][CH3:3])[O:10][CH3:4]>>[CH3:1][C:5](=[CH2:6])[O:11][P:12](=[O:8])([O:9][CH3:3])[O:10][CH3:4].[CH3:2][Cl:7]", "epd": [["LP-/Sigma+", [12], [11, 12]], ["Sigma-/LP+", [6, 7], [7]], ["LP-/Sigma+", [7], [2, 7]], ["Sigma-/LP+", [2, 8], [8]], ["LP-/Pi+", [8], [8, 12]], ["Pi-/Pi+", [5, 11], [5, 6]]]}
{"reaction_name": "Oxocarbenium cyclization", "rsmi": "[CH2:1]([CH:2]=[CH2:3])[CH:4]1[CH2:6][CH2:9][CH2:5][O:7][CH+:8]1>>[CH2:1]1[CH+:2][CH2:3][CH:8]2[CH:4]1[CH2:6][CH2:9][CH2:5][O:7]2", "epd": [["Pi-/Sigma+", [2, 3], [3, 8]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:3](=[O+:14][CH3:13])[c:15]1[cH:10][cH:8][cH:5][cH:9][cH:11]1.[N:1]1=[C:2]([CH3:4])[O:12][CH2:6][CH2:7]1>>[N:1]1([CH:3]([O:14][CH3:13])[c:15]2[cH:10][cH:8][cH:5][cH:9][cH:11]2)[C:2]([CH3:4])=[O+:12][CH2:6][CH2:7]1", "epd": [["LP-/Pi+", [12], [2, 12]], ["Pi-/Sigma+", [1, 2], [1, 3]], ["Pi-/LP+", [3, 14], [14]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[N:1]1([S:7][C:19]([F:8])([F:9])[F:10])[S:5](=[O:24])(=[O:25])[c:11]2[c:27]([cH:26][cH:12][cH:28][cH:30]2)[C:29]1=[O:22].[c:2]12[cH:17][c:31]([B-:23]([F:14])([F:15])[F:16])[n:13]([CH3:3])[c:20]1[cH:21][cH:6][cH:4][cH:18]2>>[N:1]1=[C:29]([O-:22])[c:27]2[c:11]([cH:30][cH:28][cH:12][cH:26]2)[S:5]1(=[O:24])=[O:25].[c:2]12[cH:18][cH:4][cH:6][cH:21][c:20]1[N+:13]([CH3:3])=[C:31]([B-:23]([F:14])([F:15])[F:16])[CH:17]2[S:7][C:19]([F:8])([F:9])[F:10]", "epd": [["LP-/Pi+", [13], [31, 13]], ["Pi-/Sigma+", [17, 31], [17, 7]], ["Sigma-/Pi+", [7, 1], [1, 29]], ["Pi-/LP+", [29, 22], [22]]]}
